US08026257B2
Lithium aluminum hydride (1M in tetrahydrofuran, 1.07 ml, 1.07 mmol) was added to a solution of tert-butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (60 mg, 0.119 mmol) in tetrahydrofuran (5 ml). The reaction was heated at reflux for 3 h. The reaction was quenched by sequential dropwise addition of water (0.2 mL), 1N sodium hydroxide (0.6 mL), and more water (0.2 mL). The mixture was filtered and the filtrate evaporated. The residue was purified by chromatography on silica gel with a gradient from 5% to 10% 2M ammonia in methanol/dichloromethane. The product 1-methyl-7-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indole (45 mg, 0.108 mmol, 91% yield) was isolated as a clear oil. 1H-NMR (CDCl3, 400 MHz) δ 7.82 (s, 1H), 7.22-7.36 (m, 6H), 6.93 (s, 1H), 6.49 (s, 1H), 4.65 (s, 2H), 3.63 (s, 3H), 3.42 (s, 2H), 2.53 (m, 2H), 2.20 (s, 3H), 2.13-2.25 (m, 4H), 1.94 (m, 2H); Mass spec. (MH)+: 417.13.

reactant | Lithium aluminum hydride | 1.07 mmol, 1M, 1.07 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tert-butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.119 mmol, 60 mg | CN1C=CC2=CC(=CC(=C12)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(F)(F)F | C28H33F3N2O3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-methyl-7-(((1-methyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indole | 0.108 mmol, 45 mg, 91% yield | CN1C=CC2=CC(=CC(=C12)COCC1(CCN(CC1)C)C1=CC=CC=C1)C(F)(F)F | C24H27F3N2O
